US08217029B2
178.i) 4-((R)-3-Amino-pyrrolidin-1-yl)-quinoline-6-carbonitrile
Starting from 4-bromo-6-cyanoquinoline (commercial) and (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester (commercial) the title compound was prepared according to procedure F followed by procedure E and was isolated as a yellow solid (330 mg, 65% over two steps).

reactant | 4-bromo-6-cyanoquinoline | BrC1=CC=NC2=CC=C(C=C12)C#N | C10H5BrN2
reactant | (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CNCC1)=O | C9H18N2O2
product | 4-((R)-3-Amino-pyrrolidin-1-yl)-quinoline-6-carbonitrile | N[C@H]1CN(CC1)C1=CC=NC2=CC=C(C=C12)C#N | C14H14N4
